US06943183B2
N-(2-Hydroxyethyl)-2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzamide (Compound 165)
Using the method for Example 164, this compound was prepared from 2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoic acid (159 mg, 0.30 mmol) and 2-aminoethanol (92 mg, 1.50 mmol). The reaction product was extracted into ethyl acetate and purified by a silica column (eluted with dichloromethane-MeOH 20:1) to give a pale yellow solid, 100 mg, 58% yield; mp 241-243° C. (from ethyl acetate-MeOH). NMR was consistent with the structure. Calcd. For C31H31N306S

reactant | 2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-5-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzoic acid | 0.30 mmol, 159 mg | N1(C=NC=C1)C[C@H](C1=CC=CC=C1)OC1=C(C=2CCCC(C2C=C1)=O)CS(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C29H26N2O6S
reactant | 2-aminoethanol | 1.50 mmol, 92 mg | NCCO | C2H7NO
solvent | ethyl acetate MeOH | C(C)(=O)OCC.CO
product | N-(2-Hydroxyethyl)-2-{[(2-{[(1S)-2-(1H-imidazol-1-yl)-1-phenylethyl]oxy}-oxo-5,6,7,8-tetrahydro-1-naphthalenyl)methyl]sulfonyl}benzamide | 58% yield | OCCNC(C1=C(C=CC=C1)S(=O)(=O)CC1=C(C=CC=2C(CCCC12)=O)O[C@H](CN1C=NC=C1)C1=CC=CC=C1)=O | C31H31N3O6S
